US05380834
Preparation of 1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-enopyranose (Compound No. 103)
10.5 g of 1,6-anhydro-3,4-dideoxy-2-O-(p-toluene)sulfonyl-β-D-threo-hex-3-enopyranose obtained in the above reaction, was dissolved in 100 ml of dried dimethylformamide, and 6 g of sodium benzoate was added thereto. The mixture was refluxed under heating for 30 minutes. The solvent was distilled off under reduced pressure, and 200 ml of water was added to the residue. The mixture was extracted with 300 ml of chloroform. The organic layer was washed once with 200 ml of a saturated sodium hydrogencarbonate aqueous solution and then washed twice with 200 ml of a saturated sodium chloride aqueous solution. Then, the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then the obtained syrup crude product was dissolved in 100 ml of dry methanol. Then, 2 ml of a methanol solution of sodium methoxide (28 wt %) was added thereto. The mixture was stirred for 25 minutes at room temperature. The reaction solution was neutralyzed with a 20% citric acid aqueous solution and then filtered through Celite® to remove the precipitate. The filtrate was concentrated under reduced pressure, and the obtained crude product was purified by silica gel column chromatography (ethyl acetate: hexane=1:2) to obtain 1.1 g of the desired product (Compound No. 103). The NMR analytical data of this product are as follows.

reactant | sodium benzoate | 6 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1,6-anhydro-3,4-dideoxy-β-D-erythro-hex-3-enopyranose | 1.1 g | [C@H]12[C@H](O)C=C[C@H](O1)CO2 | C6H8O3
